US07419997B2
N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)benzamide was prepared from 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine and benzoyl chloride in a similar manner as described above to give a pale yellow solid (81% yield). 1H-NMR (CDCl3): δ 9.02 (s, 1H), 7.79-7.73 (m, 2H), 7.54-7.48 (m, 1H), 7.46-7.39 (m, 3H), 7.21 (d, 1H), 7.10 (dd, 1H), 6.45 (d, 1H), 5.32 (m, 1H), 2.72 (m, 2H), 2.30 (m, 1H), 2.01-1.90 (m, 3H); MS m/z 323 (M−1).

reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13ClN2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)benzamide | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=CC=CC=C1)=O | C19H17ClN2O
